US08236826B2
Production of ethyl(E)-3-(3-methoxy-4-{5-[2-(4-trifluoromethylphenyl)vinyl]pyridin-2-yloxy}phenyl)propionate
To ethyl 3-[4-(5-bromopyridin-2-yloxy)-3-methoxyphenyl]propionate (610 mg, 1.6 mmol) were added 4-trifluoromethylstyrene (0.332 mL, 2.2 mmol), dichlorobis(benzonitrile)palladium(II) (33 mg, 0.082 mmol), N,N-dimethylglycine hydrochloride (17 mg, 0.16 mmol), sodium acetate (263 mg, 3.2 mmol) and N-methylpyrrolidone (5 mL) under an argon atmosphere. The resulting solution was stirred under an argon atmosphere for 17 hours at 130° C. To the reaction solution was added ethyl acetate and filtered. The filtrate was washed with water, and then dried over anhydrous sodium sulfate. The solvent was evaporated, and the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=3:1), to thereby yield 500 mg of the title compound.

reactant | ethyl 3-[4-(5-bromopyridin-2-yloxy)-3-methoxyphenyl]propionate | 1.6 mmol, 610 mg | BrC=1C=CC(=NC1)OC1=C(C=C(C=C1)CCC(=O)OCC)OC | C17H18BrNO4
reactant | 4-trifluoromethylstyrene | 2.2 mmol, 0.332 mL | FC(C1=CC=C(C=C)C=C1)(F)F | C9H7F3
reactant | N,N-dimethylglycine hydrochloride | 0.16 mmol, 17 mg | Cl.CN(CC(=O)O)C
reactant | sodium acetate | 3.2 mmol, 263 mg | C(C)(=O)[O-].[Na+]
catalyst | dichlorobis(benzonitrile)palladium(II) | 0.082 mmol, 33 mg | C1=CC=C(C=C1)C#N.C1=CC=C(C=C1)C#N.Cl[Pd]Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N-methylpyrrolidone | 5 mL | CN1C(CCC1)=O | C5H9NO
product | ethyl(E)-3-(3-methoxy-4-{5-[2-(4-trifluoromethylphenyl)vinyl]pyridin-2-yloxy}phenyl)propionate | COC=1C=C(C=CC1OC1=NC=C(C=C1)\C=C\C1=CC=C(C=C1)C(F)(F)F)CCC(=O)OCC | C26H24F3NO4
